US05438052
N-[[7-Mercapto-5-methyl-s-triazolo[1,5-a]pyrimidin-2-yl]methyl]-2,2-diphenyl-1,3-benzodioxol-5-sulphonamide (0.27 g) and 0.14 g of 7-aminocephalosporanic acid are stirred at room temperature for 4 hours with 3.0 ml of a 20% solution of boron trifluoride in acetonitrile. After the addition of 5 ml of ice-water the reaction mixture is partitioned between water and ethyl acetate. The pH value is adjusted to 7.0 with 3N aqueous sodium hydroxide solution. The phases are separated. The aqueous phase is adjusted to pH 2.0 with concentrated aqueous hydrochloric acid. The precipitate formed is filtered off. The still moist precipitate is dissolved in trifluoroacetic acid and stirred at room temperature for 2 hours. The trifluoroacetic acid is evaporated in a water-jet vacuum and the residue is treated with ethyl acetate. The precipitate is filtered off and dried under a high vacuum. There is obtained 0.2 g of (6R,7R)-7-amino-3-[[[2-[(3,4-dihydroxybenzenesulphonamido)methyl]-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a pale beige powder.

reactant | N-[[7-Mercapto-5-methyl-s-triazolo[1,5-a]pyrimidin-2-yl]methyl]-2,2-diphenyl-1,3-benzodioxol-5-sulphonamide | 0.27 g | SC1=CC(=NC=2N1N=C(N2)CNS(=O)(=O)C2=CC1=C(OC(O1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C2)C | C26H21N5O4S2
reactant | 7-aminocephalosporanic acid | 0.14 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | acetonitrile | C(C)#N | C2H3N
product | (6R,7R)-7-amino-3-[[[2-[(3,4-dihydroxybenzenesulphonamido)methyl]-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.2 g | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)CNS(=O)(=O)C2=CC(=C(C=C2)O)O)C | C21H21N7O7S3
